US06271247B1
Step a: 1-(Phenylsulphonyl)-2-perhydroindolecarboxylic acid
29.8 mmol (3.8 ml) of benzenesulphonyl chloride and 7.4 ml of 4M sodium hydroxide solution are added in succession to a solution, cooled to 0° C., of 29.6 mmol (5 g) of 2-perhydroindolecarboxylic acid in 7.4 ml of 4M NaOH. The reaction mixture is left at room temperature, with stirring, for 24 hours. The mixture is then rendered acidic to pH 2-3 and filtered. The resulting solid is washed with ether to yield the expected product.

reactant | benzenesulphonyl chloride | 29.8 mmol, 3.8 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 2-perhydroindolecarboxylic acid | 29.6 mmol, 5 g | N1C(CC2CCCCC12)C(=O)O | C9H15NO2
solvent | NaOH | 4M, 7.4 ml | [OH-].[Na+]
solvent | sodium hydroxide | 4M, 7.4 ml | [OH-].[Na+]
product | 1-(Phenylsulphonyl)-2-perhydroindolecarboxylic acid | C1(=CC=CC=C1)S(=O)(=O)N1C(CC2CCCCC12)C(=O)O | C15H19NO4S
